US07053117B2
2-Amino-3-cyano-7-hydroxy-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromene
To a mixture of 3,4-dimethoxy-5-bromobenzylidenemalononitrile (293 mg, 1 mmol) and resorcinol (110 mg, 1 mmol) in ethanol (2 mL) was added piperidine (0.1 mL, 1 mmol). The mixture was refluxed for 2 h. The solvent was evaporated, the residue was purified by chromatography on silica gel with EtOAc and hexane (1:2) as eluant, yielding 240 mg (59.5%) of the title compound. 1H NMR (DMSO-d6): 9.77 (brs, 1H), 6.96–6.86 (m, 5H), 6.52 (d, J=8.1, 1H), 6.41 (s, 1H), 4.65 (s, 1H), 3.80 (s, 3H), 3.70 (s, 3H).

reactant | 3,4-dimethoxy-5-bromobenzylidenemalononitrile | 1 mmol, 293 mg | COC=1C=C(C=C(C#N)C#N)C=C(C1OC)Br | C12H9BrN2O2
reactant | resorcinol | 1 mmol, 110 mg | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | piperidine | 1 mmol, 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 2-Amino-3-cyano-7-hydroxy-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromene | 240 mg, 59.5% | NC=1OC2=CC(=CC=C2C(C1C#N)C1=CC(=C(C(=C1)OC)OC)Br)O | C18H15BrN2O4
